US05905076
p-Toluenesulfonyl chloride (119 mg, 0.62 mmol) was added to an ice-cooled solution of (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(2-hydroxy-1-phenylethoxy)-azetidin-2-one (260 mg, 0.52 mmol) and pyridine (493 mg, 6.2 mmol) in dichloromethane (7 ml). The mixture was stirred at 0° C. for 2 hrs and then at room temperature overnight. After removal of solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (8:3) as eluent and 160 mg of (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(p-toluenesulfonyl)oxy-1-phenylethoxy}-azetidin-2-one was obtained (47% yield).

reactant | p-Toluenesulfonyl chloride | 0.62 mmol, 119 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(2-hydroxy-1-phenylethoxy)-azetidin-2-one | 0.52 mmol, 260 mg | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@@H]1OC(CO)C1=CC=CC=C1)=O | C29H31N3O5
reactant | pyridine | 6.2 mmol, 493 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (3S,4R)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-{2-(p-toluenesulfonyl)oxy-1-phenylethoxy}-azetidin-2-one | 160 mg, 47% yield | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@@H]1OC(COS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)=O | C36H37N3O7S
